US07429581B2
(ii) 2-[5-(5-Chloro-thiophen-2-yl)-isoxazol-3-ylmethyl]-5-(2-methoxy-ethoxymethyl)-2H-pyrazole-3-carboxylic acid
To a solution of 500 mg of 2-[5-(5-Chloro-thiophen-2-yl)-isoxazol-3-ylmethyl]-5-hydroxymethyl-2H-pyrazole-3-carboxylic acid in 5 ml DMF 480 mg Cs2CO3 and 204 mg 1-Bromo-2-methoxy-ethane were added and the mixture was heated to 80° C. for 5 h. Then the mixture was acidified to pH 4 with aqueous HCl and filtered through a chem elut® cartridge by elution with ethyl acetate. After concentration the crude product was directly subjected to the next reaction step.

reactant | 2-[5-(5-Chloro-thiophen-2-yl)-isoxazol-3-ylmethyl]-5-hydroxymethyl-2H-pyrazole-3-carboxylic acid | 500 mg | ClC1=CC=C(S1)C1=CC(=NO1)CN1N=C(C=C1C(=O)O)CO | C13H10ClN3O4S
reactant | 1-Bromo-2-methoxy-ethane | 204 mg | BrCCOC | C3H7BrO
reactant | HCl | Cl | ClH
solvent | DMF | 5 ml, 480 mg | CN(C)C=O | C3H7NO
product | 2-[5-(5-Chloro-thiophen-2-yl)-isoxazol-3-ylmethyl]-5-(2-methoxy-ethoxymethyl)-2H-pyrazole-3-carboxylic acid | ClC1=CC=C(S1)C1=CC(=NO1)CN1N=C(C=C1C(=O)O)COCCOC | C16H16ClN3O5S
